US07683064B2
To acetic acid 2-bromo-6-(6-dimethylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-benzyl ester (422 mg, 1.01 mmol), bis(pinacolato)diboron (308 mg, 1.21 mmol), and potassium acetate (298 mg, 3.03 mmol) in a sealed tube was added 5 mL dimethylsulfoxide. Argon was bubbled through this mixture for 3 minutes. [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (25 mg, 0.030 mmol) was added. Argon was continued to bubble through the mixture for one more minute and the lid was tightly closed. This was heated at 80° C. for 18 hours. This was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (gradient elution 30 to 50% ethyl acetate/hexanes) to yield acetic acid 2-(6-dimethylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl ester (251 mg, 0.541 mmol). MS (ESI) 487.2 (M+Na)+.

reactant | acetic acid 2-bromo-6-(6-dimethylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-benzyl ester | 1.01 mmol, 422 mg | BrC1=C(COC(C)=O)C(=CC=C1)N1C(C2=CC=C(C=C2CC1)N(C)C)=O | C20H21BrN2O3
reactant | bis(pinacolato)diboron | 1.21 mmol, 308 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.03 mmol, 298 mg | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.030 mmol, 25 mg | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | acetic acid 2-(6-dimethylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl ester | 0.541 mmol, 251 mg | CN(C=1C=C2CCN(C(C2=CC1)=O)C1=C(COC(C)=O)C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C26H33BN2O5
